US07125896B2
c) 1-Isopropylpyrrolidin-3-yl methanesulphonate
A solution of 1-isopropylpyrrolidin-3-ol (2.0 ml) and triethylamine (2.5 ml) in toluene (25 ml) was cooled to 0° C. and methanesulphonyl chloride (1.4 ml) was added dropwise with stirring. The mixture was allowed to warm to ambient temperature and is stirred for a further 2 h. The reaction was filtered and the filtrate evaporated to an oil which was used immediately.

reactant | 1-isopropylpyrrolidin-3-ol | 2.0 ml | C(C)(C)N1CC(CC1)O | C7H15NO
reactant | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 1.4 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Isopropylpyrrolidin-3-yl methanesulphonate | CS(=O)(=O)OC1CN(CC1)C(C)C | C8H17NO3S
